US09034900B2
Step 1: 4-[5-(2,4-difluorophenoxy)-2-methylsulfonylpyrimidin-4-yl]-6-methylfuro[2,3-c]pyridin-7-one
A mixture of 4-chloro-5-(2,4-difluorophenoxy)-2-methylsulfonylpyrimidine (155 mg, 0.48 mmol), 4-bromo-2-fluoro-6-methylfuro[2,3-c]pyridin-7-one (120 mg, 0.44 mmol), NaHCO3 (92 mg, 1.1 mmol), Pd(dppf)Cl2 (32 mg, 10%) in dioxane/H2O (4 mL/200 uL) was bubbled with nitrogen for 7 min. The sealed vial was stirred at 70° C. for 8 h. LCMS analysis showed complete consumption of the limiting reagent. The reaction mixture was filtered through a short plug of celite; the celite plug was washed with DCM. The filtrate was concentrated in vacuo. The resulting residue was purified by silica gel column chromatography using a gradient of EtOAc (10 to 100%) in DCM to afford the title compound (151 mg, 79%) as a yellow solid. LCMS (M+H)+=434.

reactant | 4-chloro-5-(2,4-difluorophenoxy)-2-methylsulfonylpyrimidine | 0.48 mmol, 155 mg | ClC1=NC(=NC=C1OC1=C(C=C(C=C1)F)F)S(=O)(=O)C | C11H7ClF2N2O3S
reactant | 4-bromo-2-fluoro-6-methylfuro[2,3-c]pyridin-7-one | 0.44 mmol, 120 mg | BrC=1C2=C(C(N(C1)C)=O)OC(=C2)F | C8H5BrFNO2
reactant | NaHCO3 | 1.1 mmol, 92 mg | C(=O)(O)[O-].[Na+]
solvent | dioxane H2O | 4 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 32 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-[5-(2,4-difluorophenoxy)-2-methylsulfonylpyrimidin-4-yl]-6-methylfuro[2,3-c]pyridin-7-one | 151 mg, 79% | FC1=C(OC=2C(=NC(=NC2)S(=O)(=O)C)C=2C3=C(C(N(C2)C)=O)OC=C3)C=CC(=C1)F | C19H13F2N3O5S
